Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Subarachnoid Hemorrhage
 
Major Surgical or Invasive Procedure:
___ EVD placement  
___ angio negative
___ Angio for severe vasospasm with IA nitro and verapamil 
bil AComm, Angio negative
___ Angio for mild vasospasm with IA nitro and verapamil 
bil AComm
___ R VP shunt (Strata 1.5)
___ PEG placement 

 
History of Present Illness:
Eu Critical, ___ is a ___ female with no significant past 
medical history who is transferred from OSH today via medflight 
with diffuse SAH. History obtained via OSH records, and from 
husband. 

Reportedly patient was in her usual state of health until 
morning of ___ when the patient reported having a headache and 
neck pain. The husband left for work and the patient stayed home 
to rest on the couch for the day. The Husband reports returning 
home around 4:30 where he found his wife with altered mental 
status, not answering questions appropriately. Patient was 
brought to the OSH
where NCHCT was obtained and showed diffuse SAH. Patient was 
intubated for airway protection. She was reportedly hypertensive 
and was started on Nicardapine and propofol for BP management 
and was transferred to ___ via medflight. On transport, she 
was able to be weaned off the niardapine gtt, and arrived on 
propofol only. 

 
Past Medical History:
PMHx:
- Acne, cystic
- Flat Retinoschisis
- ganglion cyst of L wrist
- HLD
- Osteoarthritis of knees 
- Radial nerve palsy
- recurrent sinusitis
 
Social History:
___
Family History:
Family Hx: 
Is there a family history of Aneurysms?
 [x]No

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
Date and Time of evaluation:  ___ at 00:15

___ and ___: 
[ ]Grade I: Asymptomatic, mild headache, slight nuchal rigidity
[ ]Grade II: Moderate to severe headache, nuchal rigidity, no    

   neurological deficit other than cranial nerve palsy.
[ ]Grade III: Drowsiness/Confusion, mild focal neurological 
   deficit.
[x]Grade IV: Stupor, moderate-severe hemiparesis.
[ ]Grade V: Coma, decerebrate posturing.

Fisher Grade:
[ ]1 No hemorrhage evident
[ ]2 Subarachnoid hemorrhage less than 1mm thick
[ ]3 Subarachnoid hemorrhage more than 1mm thick
[x]4 Subarachnoid hemorrhage of any thickness with IVH or  
     parenchymal extension

WFNS SAH Grading Scale:
[ ]Grade I: GCS 15, no motor deficit
[ ]Grade II: GCS ___, no motor deficit
[ ]Grade III: GCS ___, with motor deficit
[x]Grade IV: GCS ___, with or without motor deficit
[ ]Grade V: GCS ___, with or without motor deficit  

___ Coma Scale:
  [x]Intubated  

Eye Opening: 
 [x]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [ ]4 Opens eyes spontaneously

Verbal:
 [x]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [x]5 Localizes to painful stimuli
 [ ]6 Obeys commands

7T: Total

ICH Score:

GCS
     [ ]2     GCS ___
     [x]1     GCS ___
     [ ]0     GCS ___
     
ICH Volume 
     [x]1     30 mL or Greater
     [ ]0     Less than 30 mL

Intraventricular Hemorrhage
     [x]1     Present
     [ ]0     Absent

Infratentorial ICH
     [ ___     Yes
     [x]0     No

Age
     [ ]1     ___ years old or greater
     [x]0     Less than ___ years old

Total Score: 3

O: 
T: 97.0   BP: 115/56    HR: 87     RR: 20     O2Sats: 96% ETT
 
Sedation held for exam

Gen: Intubated
HEENT: Pupils:  2mm sluggish bilaterally       EOMs - UTA
Neck: Supple.
Lungs: ETT
Cardiac: RRR. 
Extrem: Warm and well-perfused. No C/C/E.

Neuro:
Mental status: Intubated, no EO to voice or noxious. 
Orientation: UTA
Recall: UTA
Language: UTA

Cranial Nerves:
I: Not tested
II: Pupils equal, round 2mm sluggish bilaterally 
III, IV, VI: UTA, does not track examiner
V, VII: UTA
VIII: UTA
IX, X: Not tested
XI: UTA
XII: UTA

Motor: Patient does not follow commands. Localizes to sternal 
rub
in all 4 extremities. 

Sensation: Intact to light touch.

PHYSCIAL EXAMINATION ON DISCHARGE:
=====================================

Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [ ]Place "Hospital" with choice [ ]Time

Follows commands: [x]Simple - intermittently [ ]Complex 

Pupils:  PERRL 3-2mm bilaterally 

Comprehension intact [ ]Yes [x]No   

Motor:
Followed upper extremity motor exam, ___
Difficulty with lower extremity motor exam - lifts legs
antigravity against light resistance bilaterally, ___
___

Wound: 
[x]Clean, dry, intact, no active drainage noted. Sutures 
removed. 
Abdomen, soft, NT, incision c/d/i
 
Pertinent Results:
Please see OMR for pertinent lab and imaging results. 
 
Brief Hospital Course:
#Subarachnoid Hemorrhage
The patient was admitted to the Neuro ICU from the ED on 
___ for ___. A right frontal EVD was placed. She was 
started on Nimodipine for vasospasm prophylaxis. A repeat CT 
head was performed which showed hydrocephalus and the EVD was 
dropped to 10 from 15. EVD continued to be titrated during her 
ICU stay. She was started on Keppra 500mg BID for seizure 
prophylaxis. An arterial line was placed in the ICU. She was 
given fluid boluses to maintain euvolemia. She was taken to 
angio on ___ which did not reveal an aneurysm or vascular 
abnormality. Sedation was weaned during her ICU stay. Patient 
with increased agitation on ___ requiring precedex. TCDs 
performed on ___ and ___ were negative for vasospasm. On ___, 
the patient had a change in examination later in the day and 
underwent a CTA of the head which revealed severe vasospasm in 
the A1 vessels bilaterally. She underwent an emergent angiogram 
and received intra-arterial verapamil and nitro into the ACA for 
treatment of vasospasm. The angiogram revealed no evidence of 
aneurysm. On ___, the patient experienced increased confusion 
and the goal blood pressure was increased to 160-200. Milrinone 
gtt was initiated in the setting of vasospasm, which was 
titrated accordingly. On ___, her TCDs were normal. An MRI was 
obtained on ___ which revealed a right basal ganglia frontal 
caudate infarct. Angio on ___ showed ACA vasospasm, which was 
treated with IA verapamil and nitro. CT on ___ showed worsening 
hydrocephalus, and EVD was lowered from 15 to 5. TCDs on ___ 
were WNL. Repeat CT on ___ showed improved hydro. TCDs on ___ 
were negative for spasm. Milrinone was decreased on ___. On 
___, the patient underwent a CTA which was negative for 
vasospasm. A CSF sample was sent for gram stain and culture. On 
___, the patient was taken to the operating room and underwent 
placement of a right frontal VP shunt. She tolerated the 
procedure well and was recovered in the Neuro ICU. The salt 
tablets were discontinued. On ___, the patient was noted to be 
more lethargic and the VP shunt was dialed down to 1.0. 
Fludrocort was stopped and she was started on sq heparin. She 
was given boluses as needed for goal euvolemia. A repeat NCHCT 
on ___ showed stable vent size and her EVD was dialed down to 
0.5. She was transferred to the neuro step-down unit for further 
management. Repeat head CT on ___ showed stable subarachnoid 
and intraventricular hemorrhage. She remained neurologically 
stable. 

#Hypernatremia
Her free water flushes were increased due to hypernatremia. 
Nutrition was consulted and recommended adding banana flakes and 
to monitor her stool output. Her flexiseal was replaced on ___ 
to obtain accurate I&Os and subsequently removed ___. Na stable 
147 at discharge. 
 
#Hypertension
On arrival to Neuro ICU, the patient was started on nicardipine 
drip for blood pressure management, which was weaned off. 
Patient was also started on labetalol PRN for HTN management. 
Patient's blood pressure goal was liberalized on ___ to 160-200 
due to her vasospasms and by time of discharge was normotensive. 


#Respiratory Failure
The patient was intubated prior to transfer to ___ and 
remained intubated in ICU. She was extubated on ___ without 
difficulty. On ___, the patient was extubated. A CXR was 
obtained on ___ for concern of aspiration PNA due to increased 
confusion and WOB. Vancomycin and cefepime were started on ___ 
for presumed aspiration PNA. CXR on ___ also consistent with 
aspiration and PNA. On ___, there was low likelihood of PNA and 
all of the anbitiotics except for the PO Vancomycin were 
discontinued. Remained stable on room air. 

#Dysphagia 
NGT was placed on ___ prior to extubation. On ___, she passed a 
bedside swallow evaluation. NGT was removed and she was started 
on a diet. The NGT was replaced on ___ and placement confirmed 
with a chest xray. NGT was replaced in angio on ___ and 
confirmed on x-ray. A formal speech and swallow eval was done on 
___ and she was kept NPO for failing evaluation. General 
surgery was consulted for PEG placement on ___ which was within 
her goals of care after discussion with the patients husband. 
Patient underwent PEG placement on ___ with ACS, please see 
separately dictated operative report by ___ for details of the 
procedure. Patient tolerated the procedure well and was 
transferred back to the ___ post-operatively. Patient's tube 
feedings were restarted on ___ in the afternoon and well 
tolerated. 

#Fever
The patient was febrile during her ICU stay and treated with 
broad spectrum antibiotics. Culture data was unrevealing and 
antibiotics were discontinued with exception of PO vanco which 
was started for cdiff on ___.  Patient spiked a fever on ___. 
She was pan cultured and CSF was sent from her VP shunt. Gram 
stain was negative and culture showed no growth. CXR on ___ 
negative for pulmonary edema/effusions and PNA. Blood and urine 
cultures were also negative. 

#Cdiff
Flexiseal was placed on ___ for large loose stool output and 
Cdiff was positive. Patient was treated with 14 days PO vanco, 
ending ___. After discontinuing she had slowly rising 
leukocytosis without other clear source. She was restarted on 
Vanco with planned taper for refractory cdiff. 

#Non-occlusive left deep femoral thrombosis
Patient was febrile overnight with negative infectious work-up 
on ___. LENIs were obtained and revealed a non-occlusive left 
deep femoral thrombosis. She was started on a heparin gtt on 
___. Heparin gtt was held temporarily for PEG placement on ___ 
and restarted on ___ afternoon. Patient was bridged to Xarelto 
on ___ - plan for 15 mg bid x 3 weeks then 20 mg daily for 3 
months. 

#Disposition
Patient was evaluated by physical and occupational therapy who 
have recommended ___ rehab/longterm care facility. 

AHA/ASA Core Measures for SAH/ ICH:
1. Dysphagia screening before any PO intake? [x]Yes []No
2. DVT prophylaxis administered? [x]Yes []No
3. Smoking cessation counseling given? []Yes [x]No [Reason: 
(x)non-smoker  ()unable to participate]
4. Stroke Education given in written form? [x]Yes []No
5. Assessment for rehabilitation and/or rehab services 
considered? [x]Yes []No

Stroke Measures:
1. Was ___ performed within 6hrs of arrival? [x]Yes []No
2. Was a Procoagulant Reversal agent given? []Yes [x]No  
[Reason:no anticoagulation]
3. Was Nimodipine given? [x]Yes []No [Reason:]
 
Medications on Admission:
None. 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  
3.  Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol  
4.  Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol  
5.  Glucose Gel 15 g PO PRN hypoglycemia protocol  
6.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin 
7.  Miconazole Powder 2% 1 Appl TP QID  
8.  Multivitamins W/minerals 1 TAB PO DAILY  
9.  Rivaroxaban 15 mg PO BID Duration: 21 Days  
10.  Vancomycin Oral Liquid ___ mg PO QID 
___ QID x 10 days then
125mg BID x 7 days 
125mg daily x 7 days 
125mg EOD x ___ weeks  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Subarachnoid Hemorrhage 
Severe vasospasm
Post-hemorrhagic hydrocephalus
Right caudate infarct
Nonocclusive thrombus of deep left femoral vein
Clostridium difficile infection 
Dysphagia 
Hypernatremia 
Cerebral salt wasting

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Discharge Instructions
Subarachnoid Hemorrhage 

Surgery/ Procedures:
• You had a diagnostic cerebral angiogram to assess for vascular 
abnormalities, which was negative. 
• You were found to be in vasospasm and you had a cerebral 
angiogram to administer intraarterial medications to help treat 
vasospasm. 
• You had a VP shunt placed for hydrocephalus. Sutures have been 
removed. 
• Your shunt is a ___ Strata Valve which is programmable. 
This will need to be readjusted after all MRIs or exposure to 
large magnets.  Your shunt is programmed to 0.5. 

Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• You make take a shower. 
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you must refrain 
from driving. 

Medications
• Resume your normal medications and begin new medications as 
directed.
• You were started on a blood thinner, Rivaroxaban, to treat 
your blood clot.  Please do NOT take any blood thinning 
medication (Aspirin, Plavix, Coumadin) until cleared by the 
neurosurgeon. 
• Please do NOT take any other blood thinning medication 
(Aspirin, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• Mild to moderate headaches that last several days to a few 
weeks.
• Difficulty with short term memory. 
• Fatigue is very normal
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site or puncture site. 
• Fever greater than 101.5 degrees Fahrenheit
• Constipation
• Blood in your stool or urine
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___